US07851473B2
N-(5-Methyl-3-phenylisoxazol-4-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
To a solution of 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and triethylamine (0.113 ml, 0.812 mmol) in tetrahydrofuran (2 ml) was added 5-methyl-3-phenyl-4-isoxazolyl isocyanate (244 mg, 1.22 mmol) at room temperature, and the mixture was stirred at room temperature for 1 hour. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) and recrystallized from a mixed solvent of hexane and ethyl acetate to give 229 mg (63.3%) of the desired product as a solid.

reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | triethylamine | 0.812 mmol, 0.113 ml | C(C)N(CC)CC | C6H15N
reactant | 5-methyl-3-phenyl-4-isoxazolyl isocyanate | 1.22 mmol, 244 mg | CC1=C(C(=NO1)C1=CC=CC=C1)N=C=O | C11H8N2O2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | N-(5-Methyl-3-phenylisoxazol-4-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 229 mg, 63.3% | CC1=C(C(=NO1)C1=CC=CC=C1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C23H22N6O2S
